US07393852B2
A. Preparation of S)-tert-butyl 6-(iodomethyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate
To a solution of (R)-tert-butyl 6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate (415.5 mg, 1.5 mmol) in dichloromethane/ether (1:1, 30 mL) at room temperature were added triphenylphosphine (590 mg, 2.25 mmol) and imidazole (153 mg, 2.25 mmol). To this stirred solution was then added iodine (571 mg, 2.25 mmol). After stirring for 20 min, the reaction was quenched with 10% Na2S2O3 (15 mL) until it became a clear two-phase solution. The aqueous phase was extracted with ether. The combined organic phase was dried over Na2SO4, filtered, and evaporated to dryness. Flash chromatography (SiO2, hexane/CH2Cl2=3:1 to pure CH2Cl2) afforded the title compound as a white solid. B. Preparation of (R)-tert-butyl 6-(2-(1,3-dithian-2-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate.

reactant | (R)-tert-butyl 6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate | 1.5 mmol, 415.5 mg | OCC=1C=C2CCC[C@H](C2=CC1)NC(OC(C)(C)C)=O | C16H23NO3
reactant | triphenylphosphine | 2.25 mmol, 590 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 2.25 mmol, 153 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 2.25 mmol, 571 mg | II | I2
solvent | dichloromethane ether | 30 mL | ClCCl.CCOCC
product | tert-butyl 6-(iodomethyl)-1,2,3,4-tetrahydronaphthalen-1-ylcarbamate | ICC=1C=C2CCCC(C2=CC1)NC(OC(C)(C)C)=O | C16H22INO2
